### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/Dirichlet): new file, material on specific L-series

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds a new file `NumberTheory.LSeries.Dirichlet` that contains results on L-series of specific functions:
* the Möbius function
* Dirichlet characters, with the constant function `1` as a special case
* the arithmetic function `ζ` (which has the same L-series as the constant function `1`)
* the von Mangoldt function and its twists by Dirichlet characters

It also adds (L-series of zero and of the indicator function of `{1}`) and removes (convergence of the L-series of the constant function `1` / of  `ζ`; this is moved to the new file) some material to/from `NumberTheory.LSeries.Basic`.

See [this thread on Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/L-series/near/424858837).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 1]
```diff
@@ -0,0 +1,420 @@
...
+/-- The L-series of the twist of the von Mangoldt function `Λ` by a Dirichlet character `χ`
+converges at `s` when `re s > 1`. -/
+lemma LSeriesSummable_twist_vonMangoldt {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ}
+    (hs : 1 < s.re) :
+    LSeriesSummable (↗χ * ↗Λ) s :=
+  LSeriesSummable_mul χ <| LSeriesSummable_vonMangoldt hs
+
+/-- The L-series of the twist of the von Mangoldt function `Λ` by a Dirichlet character `χ` at `s`
+equals the negative logarithmtic dericative of the L-series of `χ` when `re s > 1`. -/
+lemma LSeries_twist_vonMangoldt_eq  {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ} (hs : 1 < s.re) :
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:385]:
```suggestion
lemma LSeries_twist_vonMangoldt_eq {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ} (hs : 1 < s.re) :
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 2]
```diff
@@ -0,0 +1,420 @@
...
+    (↗χ * ↗Λ) ⍟ ↗χ = ↗χ * ↗Complex.log := by
+  nth_rewrite 2 [← mul_one ↗χ]
+  rw [← DirichletCharacter.mul_convolution_distrib, convolution_vonMangoldt_const_one]
+
+/-- The L-series of the twist of the von Mangoldt function `Λ` by a Dirichlet character `χ`
+converges at `s` when `re s > 1`. -/
+lemma LSeriesSummable_twist_vonMangoldt {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ}
+    (hs : 1 < s.re) :
+    LSeriesSummable (↗χ * ↗Λ) s :=
+  LSeriesSummable_mul χ <| LSeriesSummable_vonMangoldt hs
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:381]:
```suggestion
lemma LSeriesSummable_twist_vonMangoldt {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ}
    (hs : 1 < s.re) : LSeriesSummable (↗χ * ↗Λ) s :=
  LSeriesSummable_mul χ <| LSeriesSummable_vonMangoldt hs
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 3]
```diff
@@ -0,0 +1,420 @@
...
+      zero_cpow, div_zero]
+  · simp only [ne_eq, hn, not_false_eq_true, term_of_ne_zero, ↓reduceIte, one_div]
+
+/-- The L-series of the arithmetic function `ζ` equals the Riemann Zeta Function on its
+domain of convergence `1 < re s`. -/
+lemma LSeriesHasSum_zeta {s : ℂ} (hs : 1 < s.re) : LSeriesHasSum ↗ζ s (riemannZeta s) :=
+  LSeries_zeta_eq_riemannZeta hs ▸ (zeta_LSeriesSummable_iff.mpr hs).LSeriesHasSum
+
+lemma convolution_zeta_moebius : ↗ζ ⍟ ↗μ = δ := by
+  have hζ : ↗ζ = ↗(ζ : ArithmeticFunction ℂ) := rfl
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:281]: it looks weird to me to have this, but I guess there isn't a simp lemma one can write to deal with this in general.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 4]
```diff
@@ -0,0 +1,420 @@
...
+  have hμ : ↗μ = ↗(μ : ArithmeticFunction ℂ) := rfl
+  ext
+  simp only [hμ, hζ, coe_mul, coe_zeta_mul_coe_moebius, one_apply, delta]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:284]:
```suggestion
  ext
  simp_rw [← natCoe_apply, ← intCoe_apply, coe_mul, coe_zeta_mul_coe_moebius, one_apply, delta]
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 5]
```diff
@@ -132,6 +132,11 @@ theorem mem_divisorsAntidiagonal {x : ℕ × ℕ} :
         Nat.le_mul_of_pos_left _ (Nat.pos_of_ne_zero h.1)⟩
 #align nat.mem_divisors_antidiagonal Nat.mem_divisorsAntidiagonal
 
+lemma ne_zero_of_mem_divisorsAntidiagonal {p : ℕ × ℕ} (hp : p ∈ n.divisorsAntidiagonal) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Divisors.lean:135]: Maybe additionally `left_ne_zero_of_mem_divisorsAntidiagonal`, `right_ne_zero_of_mem_divisorsAntidiagonal`

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 6]
```diff
@@ -0,0 +1,420 @@
...
+Copyright (c) 2024 Michael Stoll. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michael Stoll
+-/
+import Mathlib.NumberTheory.SumPrimeReciprocals
+import Mathlib.NumberTheory.VonMangoldt
+import Mathlib.NumberTheory.ZetaFunction
+import Mathlib.NumberTheory.DirichletCharacter.Bounds
+import Mathlib.NumberTheory.LSeries.Convolution
+import Mathlib.NumberTheory.LSeries.Deriv
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:11]: Sort these please

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 7]
```diff
@@ -0,0 +1,420 @@
...
+  ext n
+  by_cases hn : n ∈ {p | p.Prime}
+  · simp only [Pi.neg_apply, Set.indicator_of_mem hn, ofReal_div, ofReal_one, ofReal_nat_cast,
+      neg_div', term_of_ne_zero hn.ne_zero, moebius_apply_prime hn, Int.reduceNeg, Int.cast_neg,
+      Int.cast_one, cpow_one]
+  · simp only [one_div, Pi.neg_apply, Set.indicator_of_not_mem hn, ofReal_zero, neg_zero]
+
+/-- The L-series of the Möbius function converges absolutely at `s` if and only if `re s > 1`. -/
+lemma LSeriesSummable_moebius_iff {s : ℂ} : LSeriesSummable ↗μ s ↔ 1 < s.re := by
+  refine ⟨fun H ↦? _, LSeriesSummable_of_bounded_of_one_lt_re (m := 1) fun n ↦ ?_⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:66]:
```suggestion
  refine ⟨fun H ↦ ?_, LSeriesSummable_of_bounded_of_one_lt_re (m := 1) fun n ↦ ?_⟩
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 8]
```diff
@@ -0,0 +1,420 @@
...
+  · by_contra! h
+    have h' : s.re ≤ (1 : ℂ).re := by simp only [one_re, h]
+    exact not_LSeriesSummable_moebius_at_one <| LSeriesSummable.of_re_le_re h' H
+  · rw [abs_intCast, ← Int.cast_abs]
+    norm_cast
+    rcases eq_or_ne (μ n) 0 with h | h
+    · simp [h]
+    · rcases moebius_ne_zero_iff_eq_or.mp h with h | h <;> simp [h]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:74]: This seems worth extracting; for example with
```lean
theorem moebius_apply_eq (n : ℕ) : μ n = 0 ∨ μ n = 1 ∨ μ n = -1 := by
  simp only [moebius, coe_mk]
  split_ifs
  · right
    exact neg_one_pow_eq_or ..
  · left
    rfl

theorem abs_moebius_le_one {n : ℕ} : |μ n| ≤ 1 := by
  obtain h|h|h := moebius_apply_eq n <;> simp [h]

theorem moebius_ne_zero_iff_eq_or {n : ℕ} : μ n ≠ 0 ↔ μ n = 1 ∨ μ n = -1 := by
  have := moebius_apply_eq n
  aesop
#align nat.arithmetic_function.moebius_ne_zero_iff_eq_or ArithmeticFunction.moebius_ne_zero_iff_eq_or
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 9]
```diff
@@ -0,0 +1,420 @@
...
+  exact mul_mul_mul_comm ..
+
+open ArithmeticFunction in
+/-- The convolution of a Dirichlet character `χ` with the twist `χ * μ` is `δ`,
+the indicator function of `{1}`. -/
+lemma convolution_mul_moebius {n : ℕ} (χ : DirichletCharacter ℂ n) : ↗χ ⍟ (↗χ * ↗μ) = δ := by
+  have : (1 : ℕ → ℂ) ⍟ (μ ·) = δ := by
+    rw [one_convolution_eq_zeta_convolution, ← one_eq_delta]
+    change ⇑(ζ : ArithmeticFunction ℂ) ⍟ ⇑(μ : ArithmeticFunction ℂ) = ⇑(1 : ArithmeticFunction ℂ)
+    simp only [coe_mul, coe_zeta_mul_coe_moebius]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:123]:
```suggestion
    simp_rw [← natCoe_apply, ← intCoe_apply, coe_mul, coe_zeta_mul_coe_moebius]
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 10]
```diff
@@ -0,0 +1,420 @@
...
+  nth_rewrite 1 [← mul_one ↗χ]
+  simpa only [← mul_convolution_distrib χ 1 ↗μ, this] using
+    mul_delta <| by simp only [cast_one, map_one]
+
+lemma mul_delta {n : ℕ} (χ : DirichletCharacter ℂ n) : ↗χ * δ = δ :=
+  LSeries.mul_delta <| by rw [cast_one, MulChar.map_one]
+
+lemma delta_mul {n : ℕ} (χ : DirichletCharacter ℂ n) : δ * ↗χ = δ :=
+  mul_comm δ _ ▸ mul_delta ..
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:132]: If you move `mul_delta` up, you can use it in the previous lemma

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 11]
```diff
@@ -0,0 +1,420 @@
...
+
+/-- The Dirichlet character mod `0` corresponds to `δ`. -/
+lemma modZero_eq_delta {χ : DirichletCharacter ℂ 0} : ↗χ = δ := by
+  ext n
+  rcases eq_or_ne n 0 with rfl | hn
+  · simp only [CharP.cast_eq_zero, isUnit_zero_iff, zero_ne_one, not_false_eq_true,
+      MulCharClass.map_nonunit, delta, ↓reduceIte]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:139]: Slightly shorter:
```suggestion
  · simp_rw [CharP.cast_eq_zero, MulCharClass.map_nonunit χ not_isUnit_zero, delta, if_false]
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 12]
```diff
@@ -0,0 +1,420 @@
...
+  · simp only [cast_one, map_one, delta, ↓reduceIte]
+  have : ¬ IsUnit (n : ZMod 0) := fun h ↦ hn' <| ZMod.eq_one_of_isUnit_natCast h
+  simp only [MulChar.map_nonunit χ this, delta, hn', ↓reduceIte]
+
+/-- The Dirichlet character mod `1` corresponds to the constant function `1`. -/
+lemma modOne_eq_one {R : Type*} [CommSemiring R] {χ : DirichletCharacter R 1} :
+    ((χ ·) : ℕ → R) = 1 := by
+  ext
+  rw [show χ = (MulChar.trivial (ZMod 1) _) from χ.level_one]
+  simp only [MulChar.trivial_apply, isUnit_of_subsingleton, ↓reduceIte, Pi.one_apply]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:150]: Could be:
```suggestion
  rw [χ.level_one, MulChar.one_apply (isUnit_of_subsingleton _), Pi.one_apply]
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 13]
```diff
@@ -0,0 +1,420 @@
...
+lemma convolution_zeta_moebius : ↗ζ ⍟ ↗μ = δ := by
+  have hζ : ↗ζ = ↗(ζ : ArithmeticFunction ℂ) := rfl
+  have hμ : ↗μ = ↗(μ : ArithmeticFunction ℂ) := rfl
+  ext
+  simp only [hμ, hζ, coe_mul, coe_zeta_mul_coe_moebius, one_apply, delta]
+
+/-- The L-series of the arithmetic function `ζ` and of the Möbius function are inverses. -/
+lemma LSeries_zeta_mul_Lseries_moebius {s : ℂ} (hs : 1 < s.re) : L ↗ζ s * L ↗μ s = 1 := by
+  rw [← LSeries_convolution' (zeta_LSeriesSummable_iff.mpr hs)
+    (LSeriesSummable_moebius_iff.mpr hs),
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:289]:
```suggestion
  rw [← LSeries_convolution' (zeta_LSeriesSummable_iff.mpr hs) (LSeriesSummable_moebius_iff.mpr hs),
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:381]: (I think either is fine)

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
Nice work, some (mostly superficial) comments below

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:381]: huh interesting, I though one always tried to reduce the number of lines (not that in this case it makes a big difference).

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:381]: I prefer to have the statement on a separate line when the (name and) arguments span more than one line, to visually separate the two.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:74]: Maybe, but I think this should be a separate PR.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:123]: OK. (Very slightly slower, though.)

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:281]: I have inlined this now in the next proof (which is the only place where it is used).

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:132]: OK; it simplifies the last line in the proof a bit.

File: Mathlib/NumberTheory/Divisors.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Divisors.lean:135]: OK.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 14]
```diff
@@ -0,0 +1,414 @@
...
+  · simp only [ne_eq, hn, not_false_eq_true, term_of_ne_zero, ↓reduceIte, one_div]
+
+/-- The L-series of the arithmetic function `ζ` equals the Riemann Zeta Function on its
+domain of convergence `1 < re s`. -/
+lemma LSeriesHasSum_zeta {s : ℂ} (hs : 1 < s.re) : LSeriesHasSum ↗ζ s (riemannZeta s) :=
+  LSeries_zeta_eq_riemannZeta hs ▸ (LSeriesSummable_zeta_iff.mpr hs).LSeriesHasSum
+
+/-- The L-series of the arithmetic function `ζ` and of the Möbius function are inverses. -/
+lemma LSeries_zeta_mul_Lseries_moebius {s : ℂ} (hs : 1 < s.re) : L ↗ζ s * L ↗μ s = 1 := by
+  rw [←LSeries_convolution' (LSeriesSummable_zeta_iff.mpr hs) (LSeriesSummable_moebius_iff.mpr hs)]
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:282]: The the line will be too long...

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 15]
```diff
@@ -0,0 +1,416 @@
...
+### L-series of Dirichlet characters
+-/
+
+open Nat
+
+open scoped ArithmeticFunction.zeta in
+lemma ArithmeticFunction.const_one_eq_zeta {R : Type*} [Semiring R] :
+    ∀ n ≠ 0, (1 : ℕ → R) n = (ζ ·) n := by
+  intro _ hn
+  simp only [Pi.one_apply, zeta_apply, hn, ↓reduceIte, cast_one]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:96]: I'd go for
```suggestion
lemma ArithmeticFunction.const_one_eq_zeta {R : Type*} [Semiring R] (n : ℕ) (hn : n ≠ 0) :
    (1 : ℕ → R) n = (ζ ·) n := by
  simp only [Pi.one_apply, zeta_apply, hn, ↓reduceIte, cast_one]
```
but I'd also make `n` implicit - this would probably require doing the same to the arguments to `convolution_congr`

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean]: OK. For consistency, I've adapted the arguments of all congruence lemmas involving L-series and related stuff. (But it would be even better if `∀ n ≠ 0, ...` would read as `∀ {n} (_ : n ≠ 0), ...`.)

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 16]
```diff
@@ -0,0 +1,415 @@
...
+  rw [norm_term_eq, one_re, Real.rpow_one]
+  by_cases hn : n ∈ {(m : ℕ) | (m : ZMod N) = 1}
+  · rw [Set.indicator_of_mem hn]
+    rcases eq_or_ne n 0 with rfl | hn₀
+    · simp only [cast_zero, div_zero, ↓reduceIte, le_refl]
+    simp only [hn₀, ↓reduceIte]
+    gcongr
+    rw [hn, map_one, norm_one]
+  · rw [Set.indicator_of_not_mem hn]
+    positivity
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:174]: golf:
````
rw [norm_term_eq, one_re, Real.rpow_one, Set.indicator]
  split_ifs with h1 h2
  · rw [h2, cast_zero, div_zero]
  · rw [h1, χ.map_one, norm_one]
  all_goals positivity
````

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 17]
```diff
@@ -0,0 +1,415 @@
...
+
+/-- The L-series of a Dirichlet character converges absolutely at `s` if and only if `re s > 1`. -/
+lemma LSeriesSummable_iff {N : ℕ} (hN : N ≠ 0) (χ : DirichletCharacter ℂ N) {s : ℂ} :
+    LSeriesSummable ↗χ s ↔ 1 < s.re := by
+  refine ⟨fun H ↦ ?_, LSeriesSummable_of_bounded_of_one_lt_re fun _ _ ↦ χ.norm_le_one _⟩
+  by_contra! h
+  have h' : s.re ≤ (1 : ℂ).re := by simp only [one_re, h]
+  exact not_LSeriesSummable_at_one hN χ <| LSeriesSummable.of_re_le_re h' H
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:182]: golf:
```suggestion
  exact not_LSeriesSummable_at_one hN χ <| LSeriesSummable.of_re_le_re (by simp [h]) H
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 18]
```diff
@@ -0,0 +1,415 @@
...
+
+/-- The L-series of the twist of `f` by a Dirichlet character converges at `s` if the L-series
+of `f` does. -/
+lemma LSeriesSummable_mul {N : ℕ} (χ : DirichletCharacter ℂ N) {f : ℕ → ℂ} {s : ℂ}
+    (h : LSeriesSummable f s) :
+    LSeriesSummable (↗χ * f) s := by
+  refine Summable.of_norm <| h.norm.of_nonneg_of_le (fun _ ↦ norm_nonneg _) fun n ↦ ?_
+  refine LSeries.norm_term_le s ?_
+  rw [Pi.mul_apply, norm_mul]
+  exact mul_le_of_le_one_left (norm_nonneg _) <| DirichletCharacter.norm_le_one ..
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:198]:
```suggestion
  refine .of_norm <| h.norm.of_nonneg_of_le (fun _ ↦ norm_nonneg _) (fun n ↦ norm_term_le s ?_)
  rw [Pi.mul_apply, norm_mul]
  exact mul_le_of_le_one_left (norm_nonneg _) <| norm_le_one ..
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 19]
```diff
@@ -0,0 +1,415 @@
...
+/-- The L-series of the arithmetic function `ζ` equals the Riemann Zeta Function on its
+domain of convergence `1 < re s`. -/
+lemma LSeries_zeta_eq_riemannZeta {s : ℂ} (hs : 1 < s.re) : L ↗ζ s = riemannZeta s := by
+  simp only [LSeries, natCoe_apply, zeta_apply, cast_ite, cast_zero, cast_one,
+    zeta_eq_tsum_one_div_nat_cpow hs]
+  refine tsum_congr fun n ↦ ?_
+  rcases eq_or_ne n 0 with rfl | hn
+  · simp only [term_zero, cast_zero, ne_eq, ne_zero_of_one_lt_re hs, not_false_eq_true, zero_cpow,
+      div_zero]
+  · simp only [ne_eq, hn, not_false_eq_true, term_of_ne_zero, ↓reduceIte, one_div]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:275]:
```suggestion
  rcases eq_or_ne n 0 with hn | hn <;> simp [hn, ne_zero_of_one_lt_re hs]
```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 20]
```diff
@@ -0,0 +1,415 @@
...
+domain of convergence `1 < re s`. -/
+lemma LSeriesHasSum_zeta {s : ℂ} (hs : 1 < s.re) : LSeriesHasSum ↗ζ s (riemannZeta s) :=
+  LSeries_zeta_eq_riemannZeta hs ▸ (LSeriesSummable_zeta_iff.mpr hs).LSeriesHasSum
+
+/-- The L-series of the arithmetic function `ζ` and of the Möbius function are inverses. -/
+lemma LSeries_zeta_mul_Lseries_moebius {s : ℂ} (hs : 1 < s.re) : L ↗ζ s * L ↗μ s = 1 := by
+  rw [← LSeries_convolution' (LSeriesSummable_zeta_iff.mpr hs)
+    (LSeriesSummable_moebius_iff.mpr hs)]
+  simp_rw [← natCoe_apply, ← intCoe_apply, coe_mul, coe_zeta_mul_coe_moebius, one_eq_delta,
+    LSeries_delta, Pi.one_apply]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:287]: `simp only` also works here (+ is slightly quicker I think)

**Review by loefflerd — COMMENTED** [review]
This isn't complete, I still need to read the last bit of the file, but I'm stopping for lunch now

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 21]
```diff
@@ -0,0 +1,415 @@
...
+import Mathlib.NumberTheory.LSeries.Deriv
+import Mathlib.NumberTheory.SumPrimeReciprocals
+import Mathlib.NumberTheory.VonMangoldt
+import Mathlib.NumberTheory.ZetaFunction
+
+/-!
+# L-series of Dirichlet characters and arithmetic functions
+
+We collect some results on L-series of specific (arithmetic) functions, for example,
+the Möbius function `μ` or the von Mangoldt function `Λ`. In particular, we show that
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:17]: As a rule, I would prefer spelling names as they are written in the person's language (at least when it uses latin script). I think the "oe" spelling was used historically because "ö" was not readily avaiable on non-German typewriters/keyboards, but nowadays we have basically all variations of latin letters available, and so there is really no good reason anymore to not write "Möbius" (or "Gödel", "Gröbner", "Teichmüller", "Gauß", "Poincaré" etc.).

I'd be willing to at least submit a PR standardizing "Möbius" throughout Mathlib.

[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:17]: (In declaration names, it is a different matter, of course.)

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 22]
```diff
@@ -90,10 +104,9 @@ lemma term_convolution (f g : ℕ → ℂ) (s : ℂ) (n : ℕ) :
   -- now `n ≠ 0`
   rw [term_of_ne_zero hn, convolution_def, Finset.sum_div]
   refine Finset.sum_congr rfl fun p hp ↦ ?_
-  obtain ⟨hp, hn₀⟩ := Nat.mem_divisorsAntidiagonal.mp hp
-  have ⟨hp₁, hp₂⟩ := mul_ne_zero_iff.mp <| hp.symm ▸ hn₀
-  rw [term_of_ne_zero hp₁ f s, term_of_ne_zero hp₂ g s, mul_comm_div, div_div,
-    ← mul_div_assoc, ← natCast_mul_natCast_cpow, ← Nat.cast_mul, mul_comm p.2, hp]
+  have ⟨hp₁, hp₂⟩ := Nat.ne_zero_of_mem_divisorsAntidiagonal hp
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:107]: OK. I'm now opening `Nat` throughout the file, which allows to remove a few more prefixes.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 23]
```diff
@@ -0,0 +1,415 @@
...
+namespace ArithmeticFunction
+
+open LSeries Nat Complex
+
+lemma not_LSeriesSummable_moebius_at_one : ¬ LSeriesSummable ↗μ 1 := by
+  intro h
+  refine not_summable_one_div_on_primes <| summable_ofReal.mp <| Summable.of_neg ?_
+  simp only [← Pi.neg_def, Set.indicator_comp_of_zero ofReal_zero, ofReal_inv, ofReal_nat_cast]
+  convert h.indicator {n | n.Prime} using 1
+  ext n
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:58]: In terms of heartbeats, it is almost a factor of 5. I've noticed that `convert` can sometimes be slow...

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 24]
```diff
@@ -0,0 +1,415 @@
...
+lemma LSeries.one_convolution_eq_zeta_convolution {R : Type*} [Semiring R] (f : ℕ → R):
+    (1 : ℕ → R) ⍟ f = ((ArithmeticFunction.zeta ·) : ℕ → R) ⍟ f :=
+  convolution_congr ArithmeticFunction.const_one_eq_zeta fun _ ↦ rfl
+
+lemma LSeries.convolution_one_eq_convolution_zeta {R : Type*} [Semiring R] (f : ℕ → R):
+    f ⍟ (1 : ℕ → R) = f ⍟ ((ArithmeticFunction.zeta ·) : ℕ → R) :=
+  convolution_congr (fun _ ↦ rfl) ArithmeticFunction.const_one_eq_zeta
+
+/-- `χ₁` is (local) notation for the (necessarily trivial) Dirichlet character modulo `1`. -/
+local notation (name := Dchar_one) "χ₁" => (1 : DirichletCharacter ℂ 1)
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:106]: I think I've read somewhere that notations should be given names, so I did that for a while.
But I have to admit that I don't really know why (or if this is really a rule of some sort).

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 25]
```diff
@@ -0,0 +1,415 @@
...
+
+namespace DirichletCharacter
+
+open LSeries Nat Complex
+
+/-- Twisting by a Dirichlet character `χ` distributes over convolution. -/
+lemma mul_convolution_distrib {R : Type*} [CommSemiring R] {n : ℕ} (χ : DirichletCharacter R n)
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:113]: Good point. (The proof didn't even need changing.)

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 17 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:182]: `by simp only [one_re, h]` is faster and still fits on the line.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 26]
```diff
@@ -0,0 +1,415 @@
...
+  LSeriesSummable_mul χ <| LSeriesSummable_vonMangoldt hs
+
+/-- The L-series of the twist of the von Mangoldt function `Λ` by a Dirichlet character `χ` at `s`
+equals the negative logarithmtic derivative of the L-series of `χ` when `re s > 1`. -/
+lemma LSeries_twist_vonMangoldt_eq {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ} (hs : 1 < s.re) :
+    L (↗χ * ↗Λ) s = - deriv (L ↗χ) s / L ↗χ s := by
+  rcases eq_or_ne N 0 with rfl | hN
+  · simp only [modZero_eq_delta, delta_mul_eq_smul_delta, vonMangoldt_apply_one, ofReal_zero,
+      zero_smul, LSeries_zero, Pi.zero_apply, LSeries_delta, Pi.one_apply, div_one, zero_eq_neg]
+    exact deriv_const s 1
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:372]: why not `simpa only ... using ...`?

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 19 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:275]: This is shorter, but it almost doubles the heartbeats (from 458 to 867).
I am not really sure whether it is better to optimize the proof script (for length and readability) or the proof speed...

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:275]: I've instead optmized the `simp only` calls somewhat.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 27]
```diff
@@ -0,0 +1,415 @@
...
+
+/-- The L-series of the von Mangoldt function `Λ` equals the negative logarithmic derivative
+of the Riemann zeta function on its domain of convergence `re s > 1`. -/
+lemma LSeries_vonMangoldt_eq_deriv_riemannZeta_div {s : ℂ} (hs : 1 < s.re) :
+    L ↗Λ s = - deriv riemannZeta s / riemannZeta s := by
+  convert LSeries_vonMangoldt_eq hs using 2
+  · refine neg_inj.mpr <| Filter.EventuallyEq.deriv_eq <| Filter.eventuallyEq_iff_exists_mem.mpr ?_
+    exact ⟨{z | 1 < z.re}, (isOpen_lt continuous_const continuous_re).mem_nhds hs,
+      fun _ hz ↦ (LSeries_one_eq_riemannZeta hz).symm⟩
+  · exact (LSeries_one_eq_riemannZeta hs).symm
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:402]: `convert` is a slow tactic, the following is twice as fast:
```suggestion
lemma LSeries_vonMangoldt_eq_deriv_riemannZeta_div {s : ℂ} (hs : 1 < s.re) :
    L ↗Λ s = - deriv riemannZeta s / riemannZeta s := by
  suffices deriv (L 1) s = deriv riemannZeta s by
    rw [LSeries_vonMangoldt_eq hs, ← LSeries_one_eq_riemannZeta hs, this]
  refine Filter.EventuallyEq.deriv_eq <| Filter.eventuallyEq_iff_exists_mem.mpr ?_
  exact ⟨{z | 1 < z.re}, (isOpen_lt continuous_const continuous_re).mem_nhds hs,
    fun _ hz ↦ (LSeries_one_eq_riemannZeta hz)⟩```

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 28]
```diff
@@ -0,0 +1,415 @@
...
+
+/-- A translation of the relation `Λ * ↑ζ = log` of (real-valued) arithmetic functions
+to an equality of complex sequences. -/
+lemma convolution_vonMangoldt_zeta : ↗Λ ⍟ ↗ζ = ↗Complex.log := by
+  ext n
+  simp only [zeta_apply, cast_ite, cast_zero, cast_one, LSeries.convolution_def, mul_ite,
+    mul_zero, mul_one]
+  simp_rw [← ofReal_zero, ← apply_ite, ← ofReal_sum]
+  norm_cast
+  simpa [-vonMangoldt_mul_zeta] using congr_arg (· n) vonMangoldt_mul_zeta
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:329]: This makes it 1000 heartbeats slower, but squeezing the `simpa` makes the proof three times as fast as the original one.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 29]
```diff
@@ -0,0 +1,415 @@
...
+  exact hΛ.trans <| by simp only [norm_eq_abs, norm_mul, Pi.one_apply, norm_one, mul_one, le_refl]
+
+end ArithmeticFunction
+
+namespace DirichletCharacter
+
+/-- A twisted version of the relation `Λ * ↑ζ = log` in terms of complex sequences. -/
+lemma convolution_twist_vonMangoldt {N : ℕ} (χ : DirichletCharacter ℂ N) :
+    (↗χ * ↗Λ) ⍟ ↗χ = ↗χ * ↗Complex.log := by
+  nth_rewrite 2 [← mul_one ↗χ]
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:355]: Again, this is slower. I'm now doing it "right-to-left" in a single `rw` call.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 26 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:372]: OK (20 heartbeats slower, though :smile:)

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 27 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean:402]: True; thanks!

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 19 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean]: > This is shorter, but it almost doubles the heartbeats (from 458 to 867). I am not really sure whether it is better to optimize the proof script (for length and readability) or the proof speed...

I am never quite sure either how these three priorities should be balanced. (I asked about this on zulip recently but no clear consensus seems to have emerged.) Given the lack of clarity on this, it is clearly up to PR authors to choose their priorities, so please don’t feel bound by my suggestion in any way.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean]: I've merged master and used `abs_moebius_le_one` to golf this proof.

**Comment by CBirkbeck** [comment]
LGTM!

File: Mathlib/NumberTheory/LSeries/Basic.lean [hunk 30]
```diff
@@ -86,7 +80,7 @@ lemma term_of_ne_zero {n : ℕ} (hn : n ≠ 0) (f : ℕ → ℂ) (s : ℂ) :
     term f s n = f n / n ^ s :=
   if_neg hn
 
-lemma term_congr {f g : ℕ → ℂ} (h : ∀ n ≠ 0, f n = g n) (s : ℂ) (n : ℕ) :
+lemma term_congr {f g : ℕ → ℂ} (h : ∀ {n} (_ : n ≠ 0), f n = g n) (s : ℂ) (n : ℕ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Basic.lean:83]: This is equivalent, but more readable:
```suggestion
lemma term_congr {f g : ℕ → ℂ} (h : ∀ {n}, n ≠ 0 → f n = g n) (s : ℂ) (n : ℕ) :
```

**Comment by loefflerd** [comment]
It might be a good idea to apply Ruben's suggestion, changing `(h : ∀ {n} (_ : n ≠ 0), f n = g n)` to `(h : ∀ {n} (_ : n ≠ 0), f n = g n)`, not just to `term_congr` but to the other 7 lemmas which use this formulation.

**Comment by loefflerd** [comment]
Looks great! 

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
